US05489602
A mixture of 3-acetylamino-4-phenyl-2-butanone (12.5 g), 6N HCl (50 ml) and ethanol (50 ml) was stirred under refluxing conditions for 18 hours. The reaction mixture was concentrated under reduced pressure to yield 3-amino-4-phenyl-2-butanone hydrochloride (9.8 g, 81%).

reactant | 3-acetylamino-4-phenyl-2-butanone | 12.5 g | C(C)(=O)NC(C(C)=O)CC1=CC=CC=C1 | C12H15NO2
reactant | HCl | 6N, 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-amino-4-phenyl-2-butanone hydrochloride | 9.8 g, 81% | Cl.NC(C(C)=O)CC1=CC=CC=C1 | InChI=1S/C10H13NO.ClH/c1-8(12)10(11)7-9-5-3-2-4-6-9;/h2-6,10H,7,11H2,1H3;1H
